US04031221
By following the manipulative procedure described in Example 4(c), 5.0 g of 1-(indol-3-ylglyoxyloyl)-4-phenoxypiperidine are reacted with 2.8 g of lithium aluminum hydride to give white flakes of 3-[2-(4-phenoxypiperidyl)ethyl]indole, m.p. 123°-125° C.

reactant | 1-(indol-3-ylglyoxyloyl)-4-phenoxypiperidine | 5.0 g | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC1=CC=CC=C1)=O | C21H20N2O3
reactant | lithium aluminum hydride | 2.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-[2-(4-phenoxypiperidyl)ethyl]indole | O(C1=CC=CC=C1)C1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C21H24N2O
